US04327026
23.2 g (58.8 mmol) of 5-(o-fluorophenyl)-1,3-dihydro-7-iodo-3-methyl-2H-1,4-benzodiazepin-2-one and 10 g (0.11 mol) of copper (I) cyanide in 250 ml of dimethylformamide are heated at 150° for 2 hours under argon. After cooling, 700 ml of water are added to the mixture and the resulting precipitate is filtered off. This is dissolved in 1 l of water/ethylenediamine (1:1) and extracted with 1 l of methylene chloride; the separated aqueous phase is extracted a further twice with methylene chloride. The combined organic extracts are washed with water, dried and evaporated. The residue gives, from cyclohexane, 5-(o-fluorophenyl)-2,3-dihydro-3-methyl-2-oxo-1H-1,4-benzodiazepine-7-carbonitrile of melting point 216°.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-7-iodo-3-methyl-2H-1,4-benzodiazepin-2-one | 58.8 mmol, 23.2 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)I)=O)C | C16H12FIN2O
reactant | copper (I) cyanide | 0.11 mol, 10 g | [Cu]C#N
reactant | water | 700 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 5-(o-fluorophenyl)-2,3-dihydro-3-methyl-2-oxo-1H-1,4-benzodiazepine-7-carbonitrile | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)C#N)=O)C | C17H12FN3O
